US05679827
74.5 g (0.500 mol) of 2-cyanophenyl methyl sulfide and 250 g of chlorobenzene were placed in a 500 ml four-neck flask equipped with a stirrer, a thermometer, a dropping funnel and a condenser and 96.0 g (0.600 mol) of bromine was added dropwise thereto at about 100° C. over five hours while stirring. The excess bromine was removed with an aqueous sodium carbonate solution, followed by distillation under reduced pressure to obtain 90.4 g of 2-cyanobenzenesulfenyl bromide. The yield starting from 2-cyanophenyl methyl sulfide was 84.5%.

reactant | 2-cyanophenyl methyl sulfide | 0.500 mol, 74.5 g | CSC1=C(C=CC=C1)C#N | C8H7NS
reactant | bromine | 0.600 mol, 96.0 g | BrBr | Br2
solvent | chlorobenzene | 250 g | ClC1=CC=CC=C1 | C6H5Cl
product | 2-cyanobenzenesulfenyl bromide | 90.4 g | C(#N)C1=C(C=CC=C1)SBr | C7H4BrNS
